US04406690
A slurry of methyl 5-(4-chlorobenzyloxy)-2-pyridylcarbamate (0.75 g, 2.6 mmol) in 10% sodium hydroxide (20 ml) and methanol (40 ml) is heated to 90° under nitrogen gas. After 1 hour, 10 ml of 10% sodium hydroxide and 10 ml of methanol are added. Heating is continued, and after 2 hours, 10 ml of methanol is added. The reaction is heated under reflux overnight. The reaction is then rotoevaporated, and chloroform and water are added. The residue is extracted with chloroform (4×). The combined chloroform extracts are washed with water until neutral and with brine, dried over calcium sulfate, filtered and rotoevaporated to yield 2-amino-5-(4-chlorobenzyloxy)pyridine.

reactant | methyl 5-(4-chlorobenzyloxy)-2-pyridylcarbamate | 2.6 mmol, 0.75 g | ClC1=CC=C(COC=2C=CC(=NC2)NC(OC)=O)C=C1 | C14H13ClN2O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
product | 2-amino-5-(4-chlorobenzyloxy)pyridine | NC1=NC=C(C=C1)OCC1=CC=C(C=C1)Cl | C12H11ClN2O
